US06727264B1
2-METHYL-N-[3-(1-{[3-(2-THIENYL)-1H-PYRAZOL-4-YL]METHYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-(2-thienyl)-1H-pyrazole-4-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 409.1 (M+H)+.

reactant | 3-(2-thienyl)-1H-pyrazole-4-carbaldehyde | S1C(=CC=C1)C1=NNC=C1C=O | C8H6N2OS
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-[3-(1-{[3-(2-THIENYL)-1H-PYRAZOL-4-YL]METHYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1C(=NNC1)C=1SC=CC1)C | C23H28N4OS
